US08466114B2
To a stirred solution of (2-bromo-5-iodo-phenyl)-chroman-6-yl-methanone (2.0 g, 4.51 mmol) in acetonitrile:dichloromethane (2:1 mixture, 9 mL) was added triethylsilane (2.52 mL, 15.78 mmol) and boron trifluoride diethyl etherate complex (1.11 mL, 9.02 mmol) at 0° C. After stirring overnight at room temperature, reaction was quenched by the addition of saturated aqueous sodium bicarbonate solution. Volatiles were evaporated under reduced pressure. The aqueous layer was extracted with ethyl acetate (2×20 mL). Ethyl acetate layer was washed with water, brine, dried over sodium sulfate, concentrated and purified by silica gel column chromatography to furnish 6-(2-bromo-5-iodo-benzyl)-chroman (1.5 g).

reactant | (2-bromo-5-iodo-phenyl)-chroman-6-yl-methanone | 4.51 mmol, 2.0 g | BrC1=C(C=C(C=C1)I)C(=O)C=1C=C2CCCOC2=CC1 | C16H12BrIO2
reactant | triethylsilane | 15.78 mmol, 2.52 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | acetonitrile dichloromethane | 9 mL | C(C)#N.ClCCl
product | 6-(2-bromo-5-iodo-benzyl)-chroman | 1.5 g | BrC1=C(CC=2C=C3CCCOC3=CC2)C=C(C=C1)I | C16H14BrIO
